US04225526
A. 8-[(4-Nitrophenyl)sulfonyl]amino-2-naphthol
A mixture of 8-amino-2-hydroxynapthalene (50 g, 0.3 mole) and 4-nitrobenzenesulfonyl chloride (55 g, 0.25 mole) in pyridine (500 ml) was heated under reflux for 2.5 hours then allowed to stand O/N. The mixture was poured in ice water and acidified with HOAc. The precipitated product was boiled in hexane and then recrystallized from ethyl acetate-hexane to give 40 g of green product (47%). This material was used in Part B.

reactant | 8-amino-2-hydroxynapthalene | 0.3 mole, 50 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | 4-nitrobenzenesulfonyl chloride | 0.25 mole, 55 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | HOAc | CC(=O)O | C2H4O2
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
solvent | hexane | CCCCCC | C6H14
product | 8-[(4-Nitrophenyl)sulfonyl]amino-2-naphthol | 40 g, 47% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=CC(=CC12)O | C16H12N2O5S
